US08071592B2
(d) 4-[2-(4-Amino-1-piperidinyl)ethyl]-6-(methyloxy)-1,2,4-benzotriazin-3(4H)-one Dihydrochloride
To a solution of 1,1-dimethylethyl (1-{2-[6-(methyloxy)-3-oxo-1,2,4-benzotriazin-4(3H)-yl]ethyl}-4-piperidinyl)carbamate (48 mg, 0.11 g mmol) in chloroform (2 ml) was added 4M HCl in 1,4-dioxane (2 ml). The reaction was stirred at rt for 1 h before evaporation and trituration with ethyl acetate to provide the desired compound as a yellow oil which was used without further purification (42 mg, 94%).

reactant | 1,1-dimethylethyl (1-{2-[6-(methyloxy)-3-oxo-1,2,4-benzotriazin-4(3H)-yl]ethyl}-4-piperidinyl)carbamate | 48 mg | COC=1C=CC2=C(N(C(N=N2)=O)CCN2CCC(CC2)NC(OC(C)(C)C)=O)C1 | C20H29N5O4
reactant | HCl | 4M | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-[2-(4-Amino-1-piperidinyl)ethyl]-6-(methyloxy)-1,2,4-benzotriazin-3(4H)-one Dihydrochloride | Cl.Cl.NC1CCN(CC1)CCN1C(N=NC2=C1C=C(C=C2)OC)=O | InChI=1S/C15H21N5O2.2ClH/c1-22-12-2-3-13-14(10-12)20(15(21)18-17-13)9-8-19-6-4-11(16)5-7-19;;/h2-3,10-11H,4-9,16H2,1H3;2*1H
